US05495026
[Synthesis of 2,5,7,8-tetramethyl-6-acetoxy-2-hydroxy-methylchroman]
A pressure-proof reaction vessel equipped with a stirrer was charged with 17.5 g (0.09 mole) of 4-acetoxy-2,3,5-trimethylphenol, 32.5 g (0.45 mole) of 2-methyl-2-propen-1-ol, 3.7 g (0.099 mole) of 80% paraformaldehyde, 1.2 g (0.009 mole) of dibutylamine and 2.7 g (0.045 mole) of acetic acid, and the mixture was reacted, with stirring, at 150° C. for 3 hours.

reactant | 4-acetoxy-2,3,5-trimethylphenol | 0.09 mole, 17.5 g | C(C)(=O)OC1=C(C(=C(C=C1C)O)C)C | C11H14O3
reactant | 2-methyl-2-propen-1-ol | 0.45 mole, 32.5 g | CC(CO)=C | C4H8O
reactant | paraformaldehyde | 0.099 mole, 3.7 g | C=O | CH2O
reactant | dibutylamine | 0.009 mole, 1.2 g | C(CCC)NCCCC | C8H19N
reactant | acetic acid | 0.045 mole, 2.7 g | C(C)(=O)O | C2H4O2
product | 2,5,7,8-tetramethyl-6-acetoxy-2-hydroxy-methylchroman | CC1(OC2=C(C(=C(C(=C2CC1C)C)OC(C)=O)C)C)O | C16H22O4
